US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(2-cyclohexene-1-yl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (3.00 g) obtained from Referential Example 7 was suspended in methanol (30 ml), 90% 3-bromocyclohexene (6.08 g) and sodium bicarbonate (2.85 g) were added, and the mixture was stirred for 5 hours at room temperature. The reaction mixture was concentrated under reduced pressure, water (100 ml) was added to the residue, extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 1.36 g of the titled compound.

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 3.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 3-bromocyclohexene | 6.08 g | BrC1C=CCCC1 | C6H9Br
reactant | sodium bicarbonate | 2.85 g | C([O-])(O)=O.[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-oxo-3-tert-butoxycarbonylamino-5-(2-cyclohexene-1-yl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.36 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C2C=CCCC2)NC(=O)OC(C)(C)C | C21H29N3O3
